Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization on ___

 
History of Present Illness:
Mr. ___ is a ___ year old male with past history of HTN, DM 
type II uncontrolled, obesity, CAD, Obstructive sleep apnea on 
CPAP, who presented with chest pain to the ED. 

Patient reports that about 1 week ago, he noted something "was 
not right". He had some intermittent chest discomfort without 
frank chest pain or shortness of breath. On ___ evening, 3 
days prior to admission, patient reported that he started to 
have a ___ dull ache chest pain while eating, and then this 
resolved without intervention. 2 days prior, he then woke up 
with the same chest pain, and reported that it felt like it saw 
a "squeeze" in quality, ___, and woke him from sleep. He then 
had the chest pain on and off all the day, however did not 
resolve completely and given persistence the following day he 
then went to ___ for evaluation. 

Patient reports that this chest pain is associated with mild 
shortness of breath, and is worsened with exertion. He does not 
exercise, however notes that he does have 1 floor of stairs in 
his home and was having some difficulties with this over the 
past several weeks. At the OSH< patient was given SL NTG by EMT 
with great relief and then admitted here today. 

Of note, patient was seen in ___ for chest pain while doing 
yard work. Patient then was seen at the ___ at 
___ and reportedly was found to have a 30% blockage. He did see 
a cardiologist post cardiac cath for further medical management 
in ___, however has not seen any further since. 

Initially in the ED, his vitals were 98.7 78 167/86 18 97% RA  
 - Labs were significant for initial trop <0.01. Patient was 
kept in the ED under observation. Patient had another episode of 
chest pain in the ED. Repeat trop was 0.03 to 0.05.  
 - CXR was without acute process.  
 - ___ did not show evidence of a DVT.  
 - The patient was given 1L NS, bupropion, metoprolol tartrate 
50 mg PO x2, atorvastatin 80 mg daily, trazodone 100 mg, 
metformin 1000 mg, heparin 4000U then gtt.  
Vitals prior to transfer were: T 98.4, HR 62, BP 108/64, RR 16, 
97% RA.  

Upon arrival to the floor, patient reports that he feels much 
relieved. He does not have any chest pain at this time, nor 
associated shortness of breath. He deneies any orthopnea, but 
does not that he did have some lower extremity swelling over the 
past several weeks. 

 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies nausea, 
vomiting, diarrhea, constipation or abdominal pain. No recent 
change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias.  
 
Past Medical History:
 - CAD  
 - HTN  
 - DM c/b microalbuminuria, diabetic retinopathy, peripheral 
neuropathy  
 - OSA  
 - obesity  
 - HLD  
 - depression  
 - colorectal polyps
 
Social History:
___
Family History:
Mother: passed away, ___ aneurysm
Father: Balance issues
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: T98.1   158/91   20   67   98 RA
General: alert, oriented, no acute distress. conversing well.
NECK: thick neck, JVP not able to discuss. 
CV: RRR, S1, S2. Very diminished S1. 
Lungs: Clear to auscultation bilaterally, no adventitial sounds 
heard. 
Abdomen: Obese, NT/ND. +BS
extremities: trace lower extremity edema, warm. Multiple 
excoriations with scabs over bilateral lower extremities. 
Neuro: CN II-XII grossly intact, ___ in upper and lower 
extremities. 

DISCHARGE Vitals and EXAM:  97.8 ___ 99% RA 20
Tele: no alarms
Last 24 hours I/O: -100
Last 8 hours I/O: -1325
Weight on admission 131.9-> 130.6
Today's weight:

General: alert, oriented, no acute distress. conversing well.
NECK: thick neck, JVP not able to assess
CV: RRR, S1, S2. Very diminished S1. 
Lungs: Clear to auscultation bilaterally, no adventitial sounds 
heard. 
Abdomen: Obese, NT/ND. +BS
extremities: trace lower extremity edema, warm. Multiple 
excoriations with scabs over bilateral lower extremities. 
Neuro: CN II-XII grossly intact, ___ in upper and lower 
extremities.
 
Pertinent Results:
ADMISSION LABS:

___ 02:00PM   PLT COUNT-253
___ 02:00PM   NEUTS-63.6 ___ MONOS-6.6 EOS-1.7 
BASOS-0.9 IM ___ AbsNeut-6.43* AbsLymp-2.64 AbsMono-0.67 
AbsEos-0.17 AbsBaso-0.09*
___ 02:00PM   WBC-10.1* RBC-5.34 HGB-14.9 HCT-43.0 MCV-81* 
MCH-27.9 MCHC-34.7 RDW-13.4 RDWSD-38.4
___ 02:00PM   cTropnT-<0.01
___ 02:00PM   estGFR-Using this
___ 02:00PM   GLUCOSE-359* UREA N-17 CREAT-0.8 SODIUM-134 
POTASSIUM-3.9 CHLORIDE-96 TOTAL CO2-29 ANION GAP-13
___ 02:00PM   GLUCOSE-359* UREA N-17 CREAT-0.8 SODIUM-134 
POTASSIUM-3.9 CHLORIDE-96 TOTAL CO2-29 ANION GAP-13
___ 08:00PM   CK(CPK)-152
___ 11:40PM   CK-MB-13* MB INDX-6.9*
___ 11:40PM   cTropnT-0.05*
___ 11:40PM   CK(CPK)-189

STUDIES:
ECHO ___:
Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Overall left ventricular 
systolic function is normal (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The aortic root is 
mildly dilated at the sinus level. The ascending aorta is mildly 
dilated. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve leaflets are structurally normal. No mitral 
regurgitation is seen. The left ventricular inflow pattern 
suggests impaired relaxation. There is mild pulmonary artery 
systolic hypertension. There is an anterior space which most 
likely represents a prominent fat pad. 

IMPRESSION: Suboptimal image quality. Mild thoracic aortic 
dilatation. Normal biventricular cavity size and global systolic 
function. Mild pulmonary hypertension. No pathologic valvular 
abnormalities. 

DISCHARGE LABS:

___ 07:30AM BLOOD WBC-9.2 RBC-5.10 Hgb-14.3 Hct-41.1 
MCV-81* MCH-28.0 MCHC-34.8 RDW-13.4 RDWSD-38.5 Plt ___
___ 07:30AM BLOOD Plt ___
___ 01:43PM BLOOD Glucose-264* UreaN-21* Creat-1.0 Na-131* 
K-3.6 Cl-90* HCO3-26 AnGap-19
___ 01:43PM BLOOD Calcium-9.8 Phos-4.0 Mg-2.2
 
Brief Hospital Course:
Mr. ___ is a ___ y/o male with a past medical history of HTN, 
DM, CAD, obesity, OSA who presented to the ED with chest pain 
c/f ACS s/p cardiac catherization with no stentable disease.  

# NSTEMI: Patient has multiple risk factors for ACS. Patient had 
troponins that had peaked during stay, and was initially placed 
on maximal medical therapy and heparin gtt. Patient underwent 
cardiac catheterization which then showed 90% obstructing lesion 
in the acute RCA marginal branch, and 60-70% circumflex lesion, 
however unable to intervene with any stenting. Therefore, it was 
proposed that patient should optimize medical management and was 
continued on heparin gtt for 48 hours. Patient's blood pressure 
regimen was better optimized and was stable for discharge. We 
continued daily aspirin 81, changed atorvastatin 80 mg qhs to 
rosuvastatin 40 qhs, carvedilol 12.5 mg PO/NG BID. Patient will 
stay on  Plavix for ___ year at 75 mg/day. ECHO showed a preserved 
EF >55%.

# Diabetes Mellitus Type II: 
We continued home lantus and held home metformin in lieu of an 
insulin sliding scale while inpatient. 

# Hypertension: 
We exchanged metoprolol for carvedilol 12.5 mg BID and continued 
home amlodipine and HCTZ, losartan 100 and added isosorbide 
Mononitrate 30.

# Depression: 
- Continued home wellbutrin
- Continued home trazodone as needed

# Obstructive Sleep Apnea
- Continued CPAP

>> TRANSITIONAL ISSUES: 
# NSTEMI: Patient was given handout regarding physical therapy 
post-MI. ___ medical therapy optimized for medical 
management. Patient will be continuing Plavix for the next ___ 
year per cardiology.
# Hypertension: Please f/u SBPs as outpatient, regimen 
increased. 
# Diabetes Mellitus Type II: Please continue to titrate as 
outpatient with insulin. 
# Hyponatremia: Patient was mildly hyponatremic thought to be 
___ hypovolemia. Patient had stabilization, please f/u with 
electrolyte panel at f/u appointment. 
# CODE STATUS: ___ ___
# CONTACT: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Metoprolol Tartrate 50 mg PO BID 
4. Amlodipine 10 mg PO DAILY 
5. Atorvastatin 80 mg PO QPM 
6. BuPROPion (Sustained Release) 200 mg PO QAM 
7. Glargine 60 Units Breakfast
8. MetFORMIN (Glucophage) 1000 mg PO BID 
9. TraZODone 100 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. BuPROPion (Sustained Release) 200 mg PO QAM 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Glargine 60 Units Breakfast
5. Losartan Potassium 100 mg PO DAILY 
6. TraZODone 100 mg PO QHS:PRN insomnia 
7. Carvedilol 12.5 mg PO BID 
RX *carvedilol 12.5 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0
8. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
9. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
10. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin 0.4 mg 1 tablet(s) sublingually daily Disp 
#*25 Tablet Refills:*0
11. Rosuvastatin Calcium 40 mg PO QPM 
RX *rosuvastatin [Crestor] 40 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
12. MetFORMIN (Glucophage) 1000 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 1. Non-ST elevation Myocardial Infarction   
2. Coronary Artery Disease   3. Hypertension. 

SECONDARY DIAGNOSES: 
1. Insulin Dependent Diabetes Mellitus, Type II

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you during your hospital stay 
at ___. You were initially 
admitted to the hospital for chest pain, and underwent a 
procedure called a "cardiac catheterization" to help identify if 
there are any blockages in the heart that could be causing this 
pain. You tolerated this procedure well, and we found that there 
are some blockages however unfortunately we were unable to place 
any stents to help relieve this. 

To help reduce the risk of this worsening, you were given a 
medication to help thin your blood and we have optimized some of 
your home medications to help prevent this in the future. Please 
continue to take all of your home medications as prescribed, and 
please follow up with your cardiologist and primary care 
physician upon leaving the hospital. 

Take Care,
Your ___ Team. 
 
Followup Instructions:
___